US07777047B2
N-[2-(5-{[2-(hydroxymethyl)-1H-imidazol-1-yl]methyl}-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylpyridine-2-sulfonamide
Ethyl 1-[(2-{7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)methyl]-1H-imidazole-2-carboxylate (220 mg) was dissolved in a mixed solvent of tetrahydrofuran (8 mL) and methanol (4 mL), lithium borohydride (27 mg) was added, and the mixture was stirred at room temperature for 1 hr. Lithium borohydride (20 mg) was added, and the mixture was stirred at room temperature for 24 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, and filtrated, and the filtrate was concentrated under reduced pressure. The residue was silica gel column chromatography (methanol:ethyl acetate=0:100-15:85) to give the title compound (38 mg, yield 19%) as a white solid. MS: 482 (MH+).

reactant | Ethyl 1-[(2-{7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)methyl]-1H-imidazole-2-carboxylate | 220 mg | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CN1C(=NC=C1)C(=O)OCC)S(=O)(=O)C1=NC=CC=C1 | C24H24N6O4S2
reactant | lithium borohydride | 27 mg | [BH4-].[Li+]
reactant | Lithium borohydride | 20 mg | [BH4-].[Li+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | N-[2-(5-{[2-(hydroxymethyl)-1H-imidazol-1-yl]methyl}-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylpyridine-2-sulfonamide | 38 mg, yield 19% | OCC=1N(C=CN1)CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C1=NC=CC=C1)C | C22H22N6O3S2
